US04582851
1-[[2-(Dimethylamino)ethyl]amino]-7-methoxy-4-nitro-9H-thioxanthen-9-one was prepared similarly from 8.0 g of 1-chloro-7-methoxy-4-nitrothioxanthone and 5.6 g of N,N-dimethylethylenediamine affording 7.2 g, mp 190°-192°.

reactant | 1-chloro-7-methoxy-4-nitrothioxanthone | 8.0 g | ClC1=CC=C(C=2SC3=CC=C(C=C3C(C12)=O)OC)[N+](=O)[O-] | C14H8ClNO4S
reactant | N,N-dimethylethylenediamine | 5.6 g | CN(CCN)C | C4H12N2
product | 1-[[2-(Dimethylamino)ethyl]amino]-7-methoxy-4-nitro-9H-thioxanthen-9-one | CN(CCNC1=CC=C(C=2SC3=CC=C(C=C3C(C12)=O)OC)[N+](=O)[O-])C | C18H19N3O4S
